US04891372
2-Methanesulphonyloxyethyl azide
A solution of methanesulphonyl chloride (5.7 g) in methylene chloride (20 ml) was added dropwise to a stirred solution of 2-azidoethanol (4.3 g) and triethylamine (5.0 g) in methylene chloride (80 ml). After 2 hours stirring at room temperature the reaction mixture was washed with water, dried (MgSO4) and evaporated to dryness in vacuo to give the title compound as a yellow oil, yield 7 g, which was used directly without further purification.

reactant | methanesulphonyl chloride | 5.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-azidoethanol | 4.3 g | N(=[N+]=[N-])CCO | C2H5N3O
reactant | triethylamine | 5.0 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 2-Methanesulphonyloxyethyl azide | CS(=O)(=O)OCCN=[N+]=[N-] | C3H7N3O3S
